US07083884B2
10-Ethylphenothiazine-3-carbaldehyde-N-phenylhydrazone.
10-Ethylphenothiazine-3-carbaldehyde (3 g, 0.012 mol) was dissolved in 30 ml of methanol under mild heating. A solution of 1.9 g (0.018 mol) of N-phenylhydrazine in methanol was added to the cooled reaction mixture. Then, the reaction mixture was refluxed for 0.5 hour. The precipitated product was filtered, washed with a large amount of methanol and then dried. The yield of yellowish crystals of 10-ethylphenothiazine-3-carbaldehyde-N-phenylhydrazone (C21H19N3S, FW=345.00) was 3 g (75%).

reactant | 10-Ethylphenothiazine-3-carbaldehyde | 0.012 mol, 3 g | C(C)N1C2=CC=CC=C2SC=2C=C(C=CC12)C=O | C15H13NOS
reactant | N-phenylhydrazine | 0.018 mol, 1.9 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | methanol | 30 ml | CO | CH4O
product | 10-Ethylphenothiazine-3-carbaldehyde-N-phenylhydrazone | C1(=CC=CC=C1)NN=CC=1C=CC=2N(C3=CC=CC=C3SC2C1)CC | C21H19N3S
